### PR TITLE
[Merged by Bors] - chore(AlgebraicGeometry): golf file with ideal sheaf API

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/UniversallyClosed.lean [hunk 1]
```diff
@@ -162,4 +162,10 @@ lemma universallyClosed_eq_universallySpecializing :
   · rw [universallyClosed_eq]
     exact universally_mono fun X Y f ⟨h₁, h₂⟩ ↦ (isClosedMap_iff_specializingMap _).mpr h₁
 
+lemma Surjective.of_universallyClosed_of_isDominant [UniversallyClosed f] [IsDominant f] :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/UniversallyClosed.lean:165]:
```suggestion
instance (priority := low) Surjective.of_universallyClosed_of_isDominant [UniversallyClosed f] [IsDominant f] :
```

File: Mathlib/AlgebraicGeometry/Morphisms/Proper.lean [hunk 2]
```diff
@@ -114,12 +114,7 @@ theorem isIntegral_appTop_of_universallyClosed (f : X ⟶ Y) [UniversallyClosed
     rwa [← Scheme.toSpecΓ_naturality,
       MorphismProperty.cancel_right_of_respectsIso (P := @UniversallyClosed)]
   have : UniversallyClosed X.toSpecΓ := .of_comp_of_isSeparated _ (Spec.map f.appTop)
-  have : Surjective X.toSpecΓ := by
-    constructor
-    apply surjective_of_isClosed_range_of_injective
-    · exact X.toSpecΓ.isClosedMap.isClosed_range
-    · simp only [Scheme.toSpecΓ_appTop]
-      exact (ConcreteCategory.bijective_of_isIso (Scheme.ΓSpecIso Γ(X, ⊤)).hom).1
+  have : Surjective X.toSpecΓ := .of_universallyClosed_of_isDominant _
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/Proper.lean:117]:
```suggestion
```
with the `instance` below.

File: Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean [hunk 3]
```diff
@@ -190,6 +190,20 @@ def overEquivIdealSheafData (X : Scheme.{u}) :
       simp
   counitIso := NatIso.ofComponents (fun I ↦ eqToIso (by simp))
 
+lemma overEquivIdealSheafData_functor_obj_of_isIso {X Y : Scheme.{u}} (f : Y ⟶ X) [IsIso f] :
+    (overEquivIdealSheafData X).functor.obj (op <| .mk _ f inferInstance) = ⊥ := by
+  dsimp [overEquivIdealSheafData]
+  ext U
+  simp [map_eq_zero_iff _ (ConcreteCategory.bijective_of_isIso (f.app U)).1]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean:197]: Could you make this a separate lemma `Scheme.kerFunctor_obj_of_isIso`?

File: Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean [hunk 4]
```diff
@@ -217,27 +231,22 @@ open IsClosedImmersion LocallyRingedSpace
...
-  rw [Scheme.isNilpotent_iff_basicOpen_eq_bot]
-  rw [Scheme.basicOpen_eq_bot_iff_forall_evaluation_eq_zero]
-  intro x
-  suffices h : f.base ((𝒰.map i).base x.val) ∉ Y.basicOpen s by
-    erw [← Scheme.Γevaluation_naturality_apply (𝒰.map i ≫ f)]
-    simpa only [Scheme.comp_base, TopCat.coe_comp, Function.comp_apply,
-      Scheme.residueFieldMap_comp, CommRingCat.comp_apply, map_eq_zero,
-      Scheme.evaluation_eq_zero_iff_not_mem_basicOpen]
-  exact (Y.mem_zeroLocus_iff I _).mp (hI ▸ Set.mem_range_self ((𝒰.map i).base x.val)) s hs
+lemma isDominant_of_of_injective_appTop [CompactSpace X]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean:234]:
```suggestion
lemma isDominant_of_appTop_injective [CompactSpace X]
```

File: Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean [hunk 5]
```diff
@@ -217,27 +231,22 @@ open IsClosedImmersion LocallyRingedSpace
 /-- If `f : X ⟶ Y` is a morphism of schemes with quasi-compact source and affine target, `f`
 has a closed image and `f` induces an injection on global sections, then
 `f` is surjective. -/
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean:233]: The docstring is now no longer accurate.

File: Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/ClosedImmersion.lean]: The double `of` seems to be still there.

File: Mathlib/AlgebraicGeometry/IdealSheaf/Basic.lean [hunk 6]
```diff
@@ -522,10 +523,45 @@ lemma vanishingIdeal_support {I : IdealSheafData X} :
   rw [Set.image_preimage_eq_inter_range, IsAffineOpen.range_fromSpec,
     IsAffineOpen.fromSpec_image_zeroLocus, coe_support_inter]
 
+@[simp] lemma vanishingIdeal_bot : vanishingIdeal (X := X) ⊥ = ⊤ := gc.u_top
+
+@[simp] lemma vanishingIdeal_top : vanishingIdeal (X := X) ⊤ = X.nilradical := by
+  rw [← support_bot, vanishingIdeal_support, nilradical]
+
+@[simp] lemma vanishingIdeal_iSup {ι : Sort*} (Z : ι → Closeds X) :
+    vanishingIdeal (iSup Z) = ⨅ i, vanishingIdeal (Z i) := gc.u_iInf
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/IdealSheaf/Basic.lean:532]: Is there a reason why you are not using the `iSup` notation here (and below)?

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer delegate

**Comment by joelriou** [comment]
Thanks!

bors merge
